US06703392B2
N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-benzyloxy-acetamide:
prepared by reaction of 3,4-dimethoxyphenylethylamine with benzyloxy acetyl chloride.

reactant | 3,4-dimethoxyphenylethylamine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | benzyloxy acetyl chloride | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
product | N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-benzyloxy-acetamide | COC=1C=C(C=CC1OC)CCNC(COCC1=CC=CC=C1)=O | C19H23NO4
